US05028738
A 1N aqueous solution of sodium hydroxide (20 ml: 20 mmoles) was added to 1.64 g (10 mmoles) of phenylpyruvic acid to form a solution. Then 1.49 g (10 mmoles) of prenyl bromide was added, and the mixture was reacted at room temperature for 13 hours. The reaction mixture was acidified with 1N hydrochloric acid, and extracted with three 50 ml portions of the ether. The organic layers were dried over magnesium sulfate, and the ether was evaporated under reduced pressure to give 2-oxo-3-phenyl-6-methyl-5-heptenoic acid as a pale yellowish white solid. The product was converted to a methyl ester using diazomethane, and the methyl ester was purified by silica gel column chromatography to give methyl 2-oxo-3-phenyl-6-methyl-5-heptenoate as a nearly pure product (1.72 g; yield 70 %).

reactant | sodium hydroxide | 20 mmoles, 20 ml | [OH-].[Na+]
reactant | phenylpyruvic acid | 10 mmoles, 1.64 g | C1(=CC=CC=C1)CC(C(=O)O)=O | C9H8O3
reactant | prenyl bromide | 10 mmoles, 1.49 g | C(C=C(C)C)Br | C5H9Br
reactant | hydrochloric acid | 1N | Cl | ClH
product | 2-oxo-3-phenyl-6-methyl-5-heptenoic acid | O=C(C(=O)O)C(CC=C(C)C)C1=CC=CC=C1 | C14H16O3
